US07279499B2
A. Preparation of (3-Bromo-2,5-bis-methoxymethoxy-benzyloxy)-tert-butyl-dimethyl-silane
Prepare a solution of (3-bromo-2,5-bis-methoxymethoxy-phenyl)-methanol (1.46 g, 4.76 mmol) and imidazole (0.357 g, 5.24 mmol) in DMF (50 mL). Add tertbutyldimethylsilyl chloride (TBSCl) (0.790 g, 5.24 mmol). Stir the reaction for 3 hours and pour into cold H2O (150 mL). Extract the H2O with EtOAc (3×50 mL), combine the extracts, and wash with H2O (2×50 mL) and brine (20 mL). Dry (MgSO4), filter and concentrate to afford the subtitled product (1.95 g, >95%) as an oil that may be used without purification. 1NMR (CDCl3) δ 0.11 (s, 6H), 0.95 (s, 9H),3.47 (s, 3H), 3.51 (s, 3H), 4.84 (s, 2H), 5.02 (s, 2H), 5.12 (s, 2H), 7.15 (d, J=2.9 Hz, 1H), 7.17 (d, J=3.0 Hz, 1H).

reactant | (3-bromo-2,5-bis-methoxymethoxy-phenyl)-methanol | 4.76 mmol, 1.46 g | BrC=1C(=C(C=C(C1)OCOC)CO)OCOC | C11H15BrO5
reactant | imidazole | 5.24 mmol, 0.357 g | N1C=NC=C1 | C3H4N2
reactant | tertbutyldimethylsilyl chloride | 5.24 mmol, 0.790 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | H2O | 150 mL | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | (3-Bromo-2,5-bis-methoxymethoxy-benzyloxy)-tert-butyl-dimethyl-silane | 1.95 g, >95% | BrC=1C(=C(CO[Si](C)(C)C(C)(C)C)C=C(C1)OCOC)OCOC | C17H29BrO5Si
